### PR TITLE
Reader Monad update

### PR DESCRIPTION
**Pull request by mktnk3**
This PR contains the reader monad changes separated out from the awaken PR, plus the proof fixes for Refine.

Rough descriptions of the changes are as follows: 

Haskell:
- adding `KernelR`, using ReaderM (from Control.Monad.Reader), which takes a KernelState and returns a Maybe value
- new definition of `getObject` via `readObject`
- some getter functions are redefined via `readObject` (due to the awaken PR) but not all

Haskell translator:
- updates for handling the reader monad

Design:
- new definitions of alignment related functions, `magnitudeCheck`, etc., via the reader versions of them
- `loadObject` is now in `kernel_r`, while `updateObject` is still in `kernel`. So, alignment checks in `loadObject_default` now uses the reader version of the functions.

Refine:
- proof fixes for the `getObject` change and others
- definitions of `no_fail_r` and `ovalid`

--------

A few comments:
- there are things that need to be moved to better places. For instance,`no_fail_r`. 
- `ovalid` is currently not very useful, but concept-wise it is quite clear and it is rather hard to read without at least an abbreviation.
- most of the Haskell updates are by Gerwin. Also the initial lib and haskell-translator setup.

### CODE REVIEW

File: proof/refine/ARM/Invariants_H.thy [hunk 1]
```diff
@@ -2293,17 +2296,19 @@ lemma magnitudeCheck_wp:
         \<longrightarrow> P s\<rbrace>
    magnitudeCheck ptr next bits
    \<lbrace>\<lambda>_. P\<rbrace>"
-  unfolding magnitudeCheck_def
-  apply wpsimp
+  unfolding magnitudeCheck_def read_magnitudeCheck_def
+  apply (simp add: gets_the_def exec_gets assert_opt_def valid_def
+                  return_def split_def fail_def
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Invariants_H.thy:2301]: Indentation

File: proof/refine/ARM/KHeap_R.thy [hunk 2]
```diff
@@ -74,65 +74,187 @@ abbreviation (input)
...
+  "o\<lbrace>P\<rbrace> f \<lbrace>Q\<rbrace> \<equiv> \<forall>s. P s \<longrightarrow> (\<exists>y. f s = Some y) \<longrightarrow>  Q (the (f s)) s"
+
+abbreviation (input)
+  oinvariant :: "('s,'a) lookup \<Rightarrow> ('s \<Rightarrow> bool) \<Rightarrow> bool" ("_ o\<lbrace>_\<rbrace>" [59,0] 60)
+where
+  "oinvariant f P \<equiv> o\<lbrace>P\<rbrace> f \<lbrace>\<lambda>_. P\<rbrace>"
+
+lemma asks_wp[rule_format, rotated, simp]:
+  "o\<lbrace>\<lambda>s. P (f s) s\<rbrace> asks f \<lbrace>P\<rbrace>"
+  by(simp add:  split_def asks_def oreturn_def obind_def)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/KHeap_R.thy:94]: Extra space after `:`

File: proof/refine/ARM/KHeap_R.thy [hunk 3]
```diff
@@ -147,60 +269,57 @@ lemma objBitsKO_bounded[simp]:
...
+   by readObject_obj_at'_method+
+
+lemmas readObject_ko_at'_tcb  [simp, dest!] = readObject_misc_ko_at'(1)
+lemmas readObject_ko_at'_ep   [simp, dest!] = readObject_misc_ko_at'(2)
+lemmas readObject_ko_at'_ntfn [simp, dest!] = readObject_misc_ko_at'(3)
+lemmas readObject_ko_at'_reply[simp, dest!] = readObject_misc_ko_at'(4)
+lemmas readObject_ko_at'_sc   [simp, dest!] = readObject_misc_ko_at'(5)
+
+lemma readObject_misc_obj_at':
+  "bound (readObject p s ::tcb option) \<Longrightarrow> tcb_at' p s"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/KHeap_R.thy:307]: Would it be best to eithe add a space after `::` or remove the one before?

File: proof/refine/ARM/KHeap_R.thy [hunk 4]
```diff
@@ -147,60 +269,57 @@ lemma objBitsKO_bounded[simp]:
...
+lemmas readObject_ntfn_at'[simp] = readObject_misc_obj_at'(3)[simplified]
+lemmas readObject_reply_at'[simp] = readObject_misc_obj_at'(4)[simplified]
+lemmas readObject_sc_at'[simp] = readObject_misc_obj_at'(5)[simplified]
 
 lemma getObject_tcb_at':
   "\<lbrace> \<top> \<rbrace> getObject t \<lbrace>\<lambda>r::tcb. tcb_at' t\<rbrace>"
-  by (clarsimp simp: valid_def getObject_def in_monad
-                     loadObject_default_def obj_at'_def projectKOs split_def
-                     in_magnitude_check objBits_simps')
+  unfolding getObject_def by wpsimp (clarsimp elim!:  ko_at_obj_at')
```
Comment (michaelmcinerney) [inline proof/refine/ARM/KHeap_R.thy:322]: Extra space after `:`

File: tools/haskell-translator/lhs_pars.py [hunk 5]
```diff
@@ -128,7 +128,7 @@ def get_defs(filename):
 
 def top_transform(input, isLhs):
     """Top level transform, deals with lhs artefacts, divides
-        the code up into a series of seperate definitions, and
+        the code up into a series of separate definitions, and
```
Comment (michaelmcinerney) [inline tools/haskell-translator/lhs_pars.py:131]: Thank you

File: lib/Monad_WP/OptionMonad.thy [hunk 6]
```diff
@@ -91,10 +91,23 @@ definition
...
 
+definition oliftM :: "('a \<Rightarrow> 'b) \<Rightarrow> ('s,'a) lookup \<Rightarrow> ('s,'b) lookup" where
+  "oliftM f m \<equiv> do { x \<leftarrow> m; oreturn (f x) }"
+
+(* Reader monad interface: *)
+abbreviation (input)
+  "ask \<equiv> Some"
+
+definition
+  "asks f = do { v <- ask; oreturn (f v) }"
```
Comment (michaelmcinerney) [inline lib/Monad_WP/OptionMonad.thy:108]: Ahh this is some fancy notation trickery. I was very confused at first

**Review by michaelmcinerney — APPROVED** [review]
Very cool. I was at first a little worried that there would be a lot more to learn and become famliar with, but it's been made quite straightforward and nicely integrated with everything.

I have no idea about the Haskell translator, and I'm no expert with the very low level `getObject` and `setObject` stuff, but from what I do know, it looks great

File: lib/Monad_WP/OptionMonad.thy (hunk 6 above)
Comment (lsf37) [reply lib/Monad_WP/OptionMonad.thy:108]: Got this from the Haskell Reader monad world

File: proof/refine/ARM/KHeap_R.thy (hunk 3 above)
Comment (lsf37) [reply proof/refine/ARM/KHeap_R.thy:307]: I think we should standardise on space before and after, at least if it is a longer type name like this or something with a type parameter. We could have exceptions for single-letter type variables, i.e. `x::'a` still reads fine, but `x::'a word` visually suggests the wrong grouping `(x::'a) (word)`, whereas `x :: 'a word` is at least neutral.

There is also the unicode symbol that has the two colons close together. That one could be used without extra spaces, because the symbol basically has them, but I'd prefer the ASCII version of the symbol usually.

File: lib/Monad_WP/OptionMonad.thy (hunk 6 above)
Comment (lsf37) [reply lib/Monad_WP/OptionMonad.thy:108]: (it's like `get`/`gets`)

File: spec/design/skel/PSpaceStorable_H.thy [hunk 7]
```diff
@@ -54,23 +54,59 @@ where
 | "koTypeOf (KOKernelData) = KernelDataT"
 | "koTypeOf (KOArch e) = ArchT (archTypeOf e)"
 
+(* FIXME: move *)
```
Comment (lsf37) [inline spec/design/skel/PSpaceStorable_H.thy:57]: Please move to OptionMonad before merge

File: proof/refine/ARM/TcbAcc_R.thy [hunk 8]
```diff
@@ -548,13 +548,17 @@ lemma assert_get_tcb_corres:
   apply assumption
   done
 
+schematic_goal threadGet_getObject:
+  "threadGet f t = ?x"
```
Comment (lsf37) [inline proof/refine/ARM/TcbAcc_R.thy:552]: Please spell out the `?x`, otherwise if we later change any definition below this we won't know if we need to make a change here or not.

File: proof/refine/ARM/KHeap_R.thy [hunk 9]
```diff
@@ -74,65 +74,187 @@ abbreviation (input)
 where
   "set_obj' ptr obj s \<equiv> set_ko' ptr (injectKO obj) s"
 
+(* FIXME: move *)
+(** reader monad **)
+
+(* if state s satisfies P, and if f s returns a value, the value satisfies Q *)
+abbreviation
+  ovalid :: "('s \<Rightarrow> bool) \<Rightarrow> ('s,'a) lookup \<Rightarrow> ('a \<Rightarrow> 's \<Rightarrow>  bool) \<Rightarrow> bool"
```
Comment (lsf37) [inline proof/refine/ARM/KHeap_R.thy:82]: There is already a definition of `ovalid` in `lib/Monad_WP/OptionMonadWP.thy`. We should use that one if we need it.

I'd probably state lemmas about the option monad directly in the `[| P s; f s = Some v |] ==> Q s` form, because it's almost zero notational overhead over `ovalid` and more directly applicable as rule. Although we should probably think about this a bit more carefully before we start it everywhere, because we do lose the syntactic hooks that `ovalid` would provide.  (We did use it the "lightweight" way in RISCV).

File: proof/refine/ARM/KHeap_R.thy [hunk 10]
```diff
@@ -74,65 +74,187 @@ abbreviation (input)
...
+  ("o\<lbrace>_\<rbrace>/ _ /\<lbrace>_\<rbrace>")
```
Comment (lsf37) [inline proof/refine/ARM/KHeap_R.thy:83]: The existing `ovalid` doesn't have the syntactic sugar. It might be nice to add that, including the `oinvariant` bit.

File: proof/refine/ARM/KHeap_R.thy [hunk 11]
```diff
@@ -74,65 +74,187 @@ abbreviation (input)
...
+  oinvariant :: "('s,'a) lookup \<Rightarrow> ('s \<Rightarrow> bool) \<Rightarrow> bool" ("_ o\<lbrace>_\<rbrace>" [59,0] 60)
+where
+  "oinvariant f P \<equiv> o\<lbrace>P\<rbrace> f \<lbrace>\<lambda>_. P\<rbrace>"
+
+lemma asks_wp[rule_format, rotated, simp]:
+  "o\<lbrace>\<lambda>s. P (f s) s\<rbrace> asks f \<lbrace>P\<rbrace>"
+  by(simp add:  split_def asks_def oreturn_def obind_def)
+
+(* no fail for reader monad *)
+definition
```
Comment (lsf37) [inline proof/refine/ARM/KHeap_R.thy:97]: Please move to `lib/Monad_WP/OptionMonadWP` or `lib/Monad_WP/OptionMonad` before merge.

File: proof/refine/ARM/KHeap_R.thy [hunk 12]
```diff
@@ -74,65 +74,187 @@ abbreviation (input)
...
+  ("o\<lbrace>_\<rbrace>/ _ /\<lbrace>_\<rbrace>")
+where
+  "o\<lbrace>P\<rbrace> f \<lbrace>Q\<rbrace> \<equiv> \<forall>s. P s \<longrightarrow> (\<exists>y. f s = Some y) \<longrightarrow>  Q (the (f s)) s"
+
+abbreviation (input)
+  oinvariant :: "('s,'a) lookup \<Rightarrow> ('s \<Rightarrow> bool) \<Rightarrow> bool" ("_ o\<lbrace>_\<rbrace>" [59,0] 60)
+where
+  "oinvariant f P \<equiv> o\<lbrace>P\<rbrace> f \<lbrace>\<lambda>_. P\<rbrace>"
+
+lemma asks_wp[rule_format, rotated, simp]:
```
Comment (lsf37) [inline proof/refine/ARM/KHeap_R.thy:92]: Following my arguments above, I'd probably state this directly without `ovalid` (to have the explicit form), and then add a separate `asks_wp` rule that folds it into `ovalid`. (The existing `ovalid` is a definition, not abbreviation)

File: proof/refine/ARM/KHeap_R.thy [hunk 13]
```diff
@@ -74,65 +74,187 @@ abbreviation (input)
...
+  by (clarsimp simp: no_fail_r_def)
+
+method no_fail_r_readObject_method =
+  clarsimp simp: obj_at'_def readObject_def obind_def in_omonad split_def projectKO_eq no_fail_r_def,
+  rule ps_clear_lookupAround2, assumption+, simp,
+  blast intro: is_aligned_no_overflow,
+  clarsimp simp: objBits_simps' project_inject split: option.splits
+
+lemma no_fail_r_obj_at'_readObject_tcb[simp]:
+  "no_fail_r (obj_at' (P::tcb \<Rightarrow> bool) p) (readObject p::tcb kernel_r)"
```
Comment (lsf37) [inline proof/refine/ARM/KHeap_R.thy:226]: I can never quite decide if it is better to have `P` here or `\top`. `P` matches more often, but if used as intro rule will leave schematics in the final goal if the goal is produced `wp`-style. I think we may want `P` with `[simp]`, and `\top` with `intro!`. @mbrcknl and @Xaphiosis what is your take on these?

File: proof/refine/ARM/KHeap_R.thy [hunk 14]
```diff
@@ -147,60 +269,57 @@ lemma objBitsKO_bounded[simp]:
...
+
+lemma readObject_misc_ko_at':
+  "readObject p s = Some (tcb :: tcb) \<Longrightarrow> ko_at' tcb p s"
+  "readObject p s = Some (ep :: endpoint) \<Longrightarrow> ko_at' ep p s"
+  "readObject p s = Some (ntfn :: notification) \<Longrightarrow> ko_at' ntfn p s"
+  "readObject p s = Some (reply :: reply) \<Longrightarrow> ko_at' reply p s"
+  "readObject p s = Some (sc :: sched_context) \<Longrightarrow> ko_at' sc p s"
+   by readObject_obj_at'_method+
+
+lemmas readObject_ko_at'_tcb  [simp, dest!] = readObject_misc_ko_at'(1)
```
Comment (lsf37) [inline proof/refine/ARM/KHeap_R.thy:300]: Better to move the `[simp, dest!]` to `readObject_misc_ko_at'`.

We can also give the different names directly in the lemma statement, with `and`. I forget if the attribute then has to be repeated, though.

In general I think it's better to make a collection from several named lemmas than to make a list and take it apart, because if you edit the list later (e.g. add something in the middle), the indices will shift and all the names are off, but you will not get any error messages until the lemma is used later, and it might be hard to track down that it is due to a different name.

In the other way around, you get an error message if something is renamed or removed, the only thing that will not be checked is if a new lemma is added, but not added to the collection, but existing proofs should not be affected.

File: proof/refine/ARM/Invariants_H.thy [hunk 15]
```diff
@@ -1616,26 +1616,28 @@ lemma ps_clear_def2:
   apply (drule plus_one_helper, simp)
   done
 
+lemmas in_omonad = ofail_def oreturn_def oassert_def oassert_opt_def asks_def
```
Comment (lsf37) [inline proof/refine/ARM/Invariants_H.thy:1619]: There is an existing `in_omonad` in `lib/Monad_WP/OptionMonadND` -- please extend there instead of shadowing it, because it's a set used in a lot of places (AutoCorres, AInvs etc).

But: I don't think these definitions should be just unfolded -- `in_monad` and `in_omonad` are for the situation `(s', r) : monad s` or `monad s = Some r`. Only the rules that take apart these constructs into smaller components should be in that set.

We could make a set `omonad_defs` that contains the definitions you have here. That would then be use to always unfold all primitive monad operators. Then again, we should not need to do that often apart from when we're developing the monad framework (i.e. the equivalent of wp rules, which is what the `in_omonad` set is largely supposed to accomplish).

Still fine to define that `omonad_defs` set, we should just be aware that using it is a sign that we're not done with the framework yet. The only thing that is a bit annoying is `ohaskell_fail_def` and `ohaskell_assert_def`, which both should be defined only in `Haskell_Lib`, not in `OptionMonad*`. It'd be Ok to extend the collection there, though.

**Review by lsf37 — COMMENTED** [review]
This is looking quite nice and I have the impression that the proofs are getting simpler too. Is that impression correct when you're doing them?

There is a bit of cleanup left to do with integration into the existing `OptionMonad` definitions. I can help with that if you want.

**Comment by lsf37** [comment]
I thought I had run the python style formatter on the Haskell translator, but it seems there are still a few tweaks it wants. I can push a commit to correct these if you want.

File: proof/refine/ARM/KHeap_R.thy (hunk 11 above)
Comment (lsf37) [reply proof/refine/ARM/KHeap_R.thy:97]: Actually, `no_ofail` already exists as well in `OptionMonadWP`, so we should use that and prove the additional rules there.

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:97]: oh, great, will do that. I probably should have studied those files a bit more before getting started 😄

**Comment by mktnk3** [comment]
> This is looking quite nice and I have the impression that the proofs are getting simpler too. Is that impression correct when you're doing them?

I would think so. Things are generally simpler, although part of it (a fair bit) might have been just that those lemmas could do with good cleanup.

I believe we can rewrite all the getter corres rules as equalities.

> There is a bit of cleanup left to do with integration into the existing `OptionMonad` definitions. I can help with that if you want.

Thanks, Gerwin. I am continuing with the awaken PR, so I might as well just do those cleanups myself along the way. But I would like to ask you to run the python formatter.

File: proof/refine/ARM/KHeap_R.thy (hunk 14 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:300]: I agree with what you say.

> We can also give the different names directly in the lemma statement, with `and`. I forget if the attribute then has to be repeated, though.

This was what I was missing ... :) I'll rearrange things quickly.

**Comment by mktnk3** [comment]
> I believe we can rewrite all the getter corres rules as equalities if we want. Not that that makes great difference, but some, for sure.

Well, that’s via `fun_of_m` and we probably don’t want that most of the time, so this was a bit too much to say. (my excuse is that there is quite a few of that in awaken Schedule_R... :D )

File: proof/refine/ARM/ArchAcc_R.thy [hunk 16]
```diff
@@ -79,6 +79,53 @@ end
...
+                    obj_at_simps bit_simps' typ_at_to_obj_at_arches
+             split: option.splits if_split_asm
+
+lemma readObject_misc_arch_ko_at':
+  "readObject p s = Some (pte :: pte) \<Longrightarrow> ko_at' pte p s"
+  "readObject p s = Some (pde :: pde) \<Longrightarrow> ko_at' pde p s"
+  "readObject p s = Some (asidp :: asidpool) \<Longrightarrow> ko_at' asidp p s"
+   by readObject_arch_obj_at'_method+
+
+lemmas readObject_ko_at'_pte   [simp, dest!] = readObject_misc_arch_ko_at'(1)
```
[the remark this answers is not in the document]
Comment (mbrcknl) [reply proof/refine/ARM/ArchAcc_R.thy:93]: If you particularly want names for individual lemmas in addition to a name for the bundle, you can also do:
```
lemma readObject_misc_arch_ko_at'[simp, dest!]:
  shows readObject_ko_at'_pte: "readObject p s = Some (pte :: pte) \<Longrightarrow> ko_at' pte p s"
  and readObject_ko_at'_pde: "readObject p s = Some (pde :: pde) \<Longrightarrow> ko_at' pde p s"
  and readObject_ko_at'_asidp: "readObject p s = Some (asidp :: asidpool) \<Longrightarrow> ko_at' asidp p s"
  by readObject_arch_obj_at'_method+
```
Though I find it hard to decide whether this is better or worse.

File: proof/refine/ARM/KHeap_R.thy (hunk 13 above)
Comment (mbrcknl) [reply proof/refine/ARM/KHeap_R.thy:226]: That's a reasonable assessment. So keep this lemma as is, but potentially add a second one?
```
lemmas no_fail_r_obj_at'_readObject_tcb_top[wp]
  = no_fail_r_obj_at'_readObject_tcb[where P="\top"]
```
The alternative would be to only have the rule with `\top`, but then you might need to add weakening rules for both `no_fail_r` and `obj_at'` to get it to work with `simp`. I don't think you want those weakening rules in the default `simp` set.

**Review by mbrcknl — COMMENTED** [review]
I've done only a very quick scan, so I'm sure there are lots of details I've missed. But the general idea looks great!

**Comment by lsf37** [comment]
> Thanks, Gerwin. I am continuing with the awaken PR, so I might as well just do those cleanups myself along the way. But I would like to ask you to run the python formatter.

No worries, will have a look at that later today.

**Comment by lsf37** [comment]
> The alternative would be to only have the rule with \top, but then you might need to add weakening rules for both no_fail_r and obj_at' to get it to work with simp. I don't think you want those weakening rules in the default simp set.

I agree, weakening rules wouldn't be good to have in the simpset.

File: proof/refine/ARM/KHeap_R.thy (hunk 11 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:97]: It seems that definitions in `OptionMonadWP` are not accessible from Refine files, while those in `OptionMonad` are. I am not sure why it is that way.

Comment (lsf37) [reply proof/refine/ARM/KHeap_R.thy:97]: Ah, that explains why they didn't show up.

That's entirely possibly, because AInvs on ARM doesn't use the option monad much or at all, so only the most basic bits would have been imported. We should include OptionMonadWP somewhere in the base AInvs inclusions, I think, so it is available by default. This might theoretically break something, so needs to be checked, but it should be fine if we didn't use the option monad.

File: proof/refine/ARM/Invariants_H.thy (hunk 15 above)
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:1619]: In `Haskell_Lib`, `lookup` is not available, while it seems to fine to put `ohaskell_fail` and the other in `OptionMonad` along with others (they just take one extra argument that is discarded). Are you saying they shouldn’t be there because it is about haskell, or some other reasons?

I’ll remove `in_omonad` from here and add `omonad_defs` (in OptionMonad maybe).

File: proof/refine/ARM/KHeap_R.thy (hunk 11 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:97]: Ok, I’ll chase it up.

File: proof/refine/ARM/Invariants_H.thy (hunk 15 above)
Comment (lsf37) [reply proof/refine/ARM/Invariants_H.thy:1619]: > Are you saying they shouldn’t be there because they are about haskell, or some other reasons?

Yes. Since we're now using the option monad in Haskell, it'd be perfectly fine to include those monads there already, i.e. add the `OptionMonad` theory you need to the `import` statements there. This would also make it naturally available to the rest of `Refine`.

File: proof/refine/ARM/KHeap_R.thy (hunk 11 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:97]: So, ASpec imports `OptionMonad` only, via `Machine_A`: `OptionMonad` -> `OptionMonadND` -> `ExecSpec.MachineTypes` -> `Machine_A`

`OptionMonadND` imports `OptionMonad`, and `OptionMonadWP` imports `OptionMonadND`.

We could change `MachineTypes` to import `OptionMonadWP` instead of `OptionMonadND`.

But from what you are suggesting the other comment, we could import `OptionMonadWP`  in `HaskellLib`, which seems like a better option.

Comment (lsf37) [reply proof/refine/ARM/KHeap_R.thy:97]: Yes, I think that's good. The monad constants should be defined in `OptionMonad`, which is included in `ASpec`, and validity, lemmas, etc, should be in `OptionMonadWP/ND`, which makes sense in `Haskell_Lib`.

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:97]: > We could change `MachineTypes` to import `OptionMonadWP` instead of `OptionMonadND`.
> 
> But from what you are suggesting the other comment, we could import `OptionMonadWP` in `HaskellLib`, which seems like a better option.

This gives an issue coming from the syntax overloading of `bind`, which seems obscure.

Comment (lsf37) [reply proof/refine/ARM/KHeap_R.thy:97]: I can have a look at that if you like. If the general `bind` is in scope, usually you can disambiguate with `NonDetMonad.bind` or things like that, or by annotating the type.

File: proof/refine/ARM/KHeap_R.thy [hunk 17]
```diff
@@ -74,65 +74,187 @@ abbreviation (input)
...
+  by (simp add: no_fail_r_def ofail_def)
+
+lemma non_fail_r_asks_simp[simp]:
+  "no_fail_r P (asks f)"
+  unfolding asks_def get_def oreturn_def obind_def no_fail_r_def
+  by simp
+
+lemma non_fail_r_asks[wp]:
+  "no_fail_r \<top> (asks f)"
+  by simp
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:128]: I just noticed that these go along with what was discussed between Matt and Gerwin about `P` vs `\<top>`.

File: proof/refine/ARM/KHeap_R.thy (hunk 11 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:97]: That did work. Thanks, Gerwin!

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:97]: Right, now that we have imported `OptionMonadWP` in Refine, I can see that there is `ogets` defined in `OptionMonadND` which is equivalent to `asks`. Shall we replace `asks` with `ogets`?

File: proof/refine/ARM/KHeap_R.thy (hunk 9 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:82]: Using the existing `ovalid` instead of what is defined here works fine.

I am wondering if the second part is something we need to discuss further, or something we should try now. I can push an updated version after integrating the `OptionMonadWP` definition, and we can see what it looks like, maybe.

File: proof/refine/ARM/KHeap_R.thy (hunk 11 above)
Comment (lsf37) [reply proof/refine/ARM/KHeap_R.thy:97]: Oh, well spotted, I overlooked that one. Should have been defined in `OptionMonad` of course. I blame DavidG :-)

I guess we have to keep the old one, because it is exported to AutoCorres, but `asks` is the more standard name for people familiar with that monad. I think we should make one of them a translation. Maybe the following:

 - keep the definition of `ask` and `asks` (in `OptionMonad`)
 - make `ogets` a (full) abbreviation for `asks`
 - provide a lemma `ogets_def` in in `OptionMonadWP` that corresponds to the old definition

This should keep the name people know in AutoCorres, as well as the name for people how are familiar with the reader monad.

File: proof/refine/ARM/KHeap_R.thy (hunk 9 above)
Comment (lsf37) [reply proof/refine/ARM/KHeap_R.thy:82]: It'd be fine to do that later. Maybe make a Jira issue so we don't forget about it.

File: proof/refine/ARM/KHeap_R.thy (hunk 11 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:97]: ok, I’ll do that.

File: proof/refine/ARM/KHeap_R.thy (hunk 9 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:82]: Ok. I guess the point is how to make the definitions nicely work with what `wp` will leave us with. The definition of `ovalid` in `OptionMonadWP` or here make sense conceptually, but they would always need certain steps before being able to apply to what you get after applying `wp`.

My solution for now is to use this one
```
lemma use_ovalid:
  "[| ovalid P f Q; f s = Some r; P s |] ==> Q r s”
```
which seems to work fine.

Comment (lsf37) [reply proof/refine/ARM/KHeap_R.thy:82]: Yes, that looks good.

File: proof/refine/ARM/KHeap_R.thy (hunk 13 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:226]: actually, "\top” versions are listed further below. I will make them `wp` rules rather than simp.

File: lib/HaskellLib_H.thy [hunk 18]
```diff
@@ -15,13 +15,14 @@ imports
   NatBitwise
   "More_Numeral_Type"
   "Monad_WP/WhileLoopRules"
+  "Monad_WP/OptionMonadWP"
```
Comment (mktnk3) [inline lib/HaskellLib_H.thy:18]: It seems that this has the side effect of `opt_mapE` reintroduced in `elim!` at some point before ArchDetype_AI, and that is breaking RISCV AInvs. It is removed from `elim!` in ArchInvariants_AI for RISCV, but it is reintroduced via an import of MonadicRewrite in SchedContext_AI, it seems (a late import with a FIXME). This needs to be sorted properly at some point, but, for now, I’ll remove `opt_mapE` from `elim!` for  RISCV at the beginning of ArchSchedule_A.

**Comment by mktnk3** [comment]
I believe I’ve addressed all the comments so far. This will be ready for merging after a rebase, if there is no further comments.

File: lib/HaskellLib_H.thy (hunk 18 above)
Comment (lsf37) [reply lib/HaskellLib_H.thy:18]: Yes, that's fine. It's probably a sign that it shouldn't be `[elim!]` in the first place, but that is an even larger change.

**Review by lsf37 — APPROVED** [review]
Content looks good from my side, you only need to tweak some to the commit messages to make gitlint happy.

**Comment by mktnk3** [comment]
> Content looks good from my side, you only need to tweak some to the commit messages to make gitlint happy.

Ah yes. Rebase and squash 😄

**Comment by lsf37** [comment]
In fact, there's already a JIRA item about the `[elim!]` thing: VER-1367

But no resolution what to do..

File: proof/refine/ARM/ArchAcc_R.thy [hunk 19]
```diff
@@ -79,6 +79,54 @@ end
...
+                    objBits_simps archObjSize_def projectKOs bit_simps' typ_at_to_obj_at_arches
+             split: option.splits if_split_asm
+
+lemma readObject_misc_arch_ko_at'[simp, dest!]:
+  shows
+  readObject_ko_at'_pte: "readObject p s = Some (pte :: pte) \<Longrightarrow> ko_at' pte p s" and
+  readObject_ko_at'_pde: "readObject p s = Some (pde :: pde) \<Longrightarrow> ko_at' pde p s" and
+  readObject_ko_at'_asidpool: "readObject p s = Some (asidp :: asidpool) \<Longrightarrow> ko_at' asidp p s"
+   by readObject_arch_obj_at'_method+
+
```
Comment (MitchellBuckley) [inline proof/refine/ARM/ArchAcc_R.thy:93]: nitpick: extra newline here

File: spec/design/skel/PSpaceStorable_H.thy [hunk 20]
```diff
@@ -54,23 +54,43 @@ where
...
 
+definition
+  read_alignCheck :: "machine_word \<Rightarrow> nat \<Rightarrow> unit kernel_r" where
+  "read_alignCheck x n \<equiv> ounless ((x && mask n) = 0) $ read_alignError n"
+
 definition
   alignCheck :: "machine_word \<Rightarrow> nat \<Rightarrow> unit kernel" where
-  "alignCheck x n \<equiv> unless ((x && mask n) = 0) $ alignError n"
+  "alignCheck x n \<equiv> gets_the $ read_alignCheck x n"
+
```
Comment (MitchellBuckley) [inline spec/design/skel/PSpaceStorable_H.thy:80]: nitpick: extra newline here

**Review by MitchellBuckley — APPROVED** [review]
I haven't looked in much detail, but this looks good overall!!

It's confusing that this is referred to as option monad when it's a reader monad, but there's already a FIXME to address that.

File: proof/refine/ARM/ArchAcc_R.thy [hunk 21]
```diff
@@ -802,8 +800,8 @@ lemma get_master_pte_corres [@lift_corres_args, corres]:
                bind_def get_pte_def get_object_def gets_def get_def
             split: if_split_asm Structures_A.kernel_object.splits
                    arch_kernel_obj.splits)
-   apply (clarsimp simp:typ_at'_def ko_wp_at'_def)
-   apply (clarsimp simp: in_magnitude_check objBits_simps
+      apply (clarsimp simp: obj_at'_def projectKOs)
```
Comment (VictorPhan) [inline proof/refine/ARM/ArchAcc_R.thy:803]: nitpick: indentation for subgoal count

File: proof/refine/ARM/Detype_R.thy [hunk 22]
```diff
@@ -2709,9 +2705,9 @@ lemma locateCTE_ko_wp_at':
    \<lbrace>\<lambda>rv. ko_wp_at' \<top> rv \<rbrace>"
   apply (clarsimp simp:locateCTE_def split_def)
   apply wp
-  apply (clarsimp simp:cte_wp_at'_def getObject_def
-    gets_def split_def get_def bind_def return_def
-    ko_wp_at'_def lookupAround2_char1 assert_opt_def)
+  apply (clarsimp simp: cte_wp_at'_def getObject_def gets_the_def  obind_def omonad_defs
```
Comment (VictorPhan) [inline proof/refine/ARM/Detype_R.thy:2708]: nitpick: remove extra space after `gets_the_def`

**Review by VictorPhan — APPROVED** [review]
